* AutoChaos Topology2 (3T) - NGSpice DC sweep
* Vc_fixed={VC_FIXED:.6g}  run={RUN_IDX}

.include "{MODEL_FILE}"

VDD net4 0 DC {VDD}
V2  net2 0 DC {VC_FIXED:.6g}
VIN net3 0 DC 0

M_PM0 net5 net2 net4 net4 pmos W={W_PM0} L=45n NF={NF_PM0}
M_PM1 0    net3 net5 net4 pmos W={W_PM1} L=45n NF={NF_PM1}
M_NM0 net5 net3 0    0    nmos W={W_NM0} L={L_NM0} NF={NF_NM0}

.option TEMP={TEMP}
.dc VIN {VIN_START:.6g} {VIN_STOP:.6g} {VIN_STEP:.6g}
.save V(net5)
.end

